US08623857B2
A mixture of 4-fluoro-3-nitroaniline (30 g, 0.192 mol), di-t-butylcarbonate (84 g, 0.384 mol) was stirred in ethanol (300 mL) at r.t. for 1 week. The solvents were removed in vacuo and chromatographic purification (ethyl acetate-hexane) of the residue gave tert-butyl 4-fluoro-3-nitrophenylcarbamate (43 g, 88%) as a white solid.

reactant | 4-fluoro-3-nitroaniline | 0.192 mol, 30 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | di-t-butylcarbonate | 0.384 mol, 84 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | tert-butyl 4-fluoro-3-nitrophenylcarbamate | 43 g, 88% | FC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C11H13FN2O4
